US08133995B2
Step 1: Preparation of 1-[4-(4-amino-6-methylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-2-fluorophenyl]-3-[4-(trifluoromethyl)pyridin-2-yl]urea
A suspension of Intermediate AJ (N-{4-[4-amino-6-(hydroxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoromethyl)pyridin-2-yl]urea) (200 mg, 0.433 mmol) in CH2Cl2 (5 mL) was treated with thionyl chloride (129 mg, 1.08 mmol) and allowed to stir for 30 min at rt. The reaction mixture was diluted with dichloroethane (25 mL) and the volatiles removed under vacuum. The residue was suspended in dichloroethane (25 mL) and concentrated a second time. The residue was then placed under high vacuum for 1 h. All material was then suspended in THF (10 mL) and cooled to −78° C. L-Selectride (438 mg, 2.29 mmol) was added and the reaction moved to a rt water bath. After 1 h the reaction was quenched with MeOH (1 mL) and diluted with 1N NaOH (4 mL). 2 mL 30% H2O2 (2 mL) was added dropwise, and the reaction allowed to stir for 0.5 h. The mixture was diluted with EtOAc (50 mL) and washed well with sodium thiosulfate solution and brine. The organic layer was dried with sodium sulfate and the volatiles removed under vacuum to provide an amorphous solid. Trituration with CH2Cl2 provided the desired compound as a white solid (111 mg, 59%). 1H-NMR (DMSO-d6) δ 10.10-10.30 (m, 2H), 8.54 (d, 1H, J=5 Hz), 8.28 (t, 1H, J=8 Hz), 8.02 (s, 1H), 7.81 (s, 1H), 7.60 (s, 1H), 7.36-7.40 (m, 1H), 7.28-7.32 (m, 1H), 7.14-7.18 (m, 1H), 2.10 (s, 3H); MS [M+H]+=446.0; LCMS RT=2.97 min.

reactant | N-{4-[4-amino-6-(hydroxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-N′-[4-(trifluoromethyl)pyridin-2-yl]urea | NC1=NC=NN2C1=C(C(=C2)CO)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)F | C20H15F4N7O2
reactant | thionyl chloride | 1.08 mmol, 129 mg | S(=O)(Cl)Cl | Cl2OS
reactant | L-Selectride | 2.29 mmol, 438 mg | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloroethane | 25 mL | ClC(C)Cl | C2H4Cl2
product | 1-[4-(4-amino-6-methylpyrrolo[2,1-f][1,2,4]triazin-5-yl)-2-fluorophenyl]-3-[4-(trifluoromethyl)pyridin-2-yl]urea | 111 mg, 59% | NC1=NC=NN2C1=C(C(=C2)C)C2=CC(=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F)F | C20H15F4N7O
